US05814648
To a mixture of 2-(3-benzyloxybenzamido)-2(R)-phenylethan-1-ol (29 g, 83 mmol) and triphenylphosphine (28.4 g, 108 mmol) in dry tetrahydrofuran (200 ml) was added dropwise a solution of diisopropyl azodicarboxylate (19.6 ml, 108 mmol) in dry tetrahydrofuran (30 ml). The reaction mixture was stirred for 4 hours and volatiles removed by evaporation. The residue was purified by column chromatography on silica gel eluting with ethyl acetate-hexane (=1:9) to afford 2-(3-benzyloxyphenyl)-4,5-dihydro-4(R)-phenyloxazole (23.5 g, 85%) as pale yellow solids.

reactant | 2-(3-benzyloxybenzamido)-2(R)-phenylethan-1-ol | 83 mmol, 29 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)N[C@@H](CO)C2=CC=CC=C2)C=CC1 | C22H21NO3
reactant | triphenylphosphine | 108 mmol, 28.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 108 mmol, 19.6 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-(3-benzyloxyphenyl)-4,5-dihydro-4(R)-phenyloxazole | 23.5 g, 85% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1OC[C@H](N1)C1=CC=CC=C1 | C22H19NO2
